US07084163B2
2,6-dimethyl-5-nitro-4-hydroxy-nicotinic acid
20 ml of 90% nitric acid is added to 100 ml of 98% sulphuric acid with stirring and cooling. To this solution is added portion-wise 6.9 g (41.1 mmol) of 2,6-dimethyl-4-hydroxy-nicotinic acid. The mixture is stirred at 80° C. for 1 hour, cooled down and added cautiously 300 g of crushed ice. The resulting suspension is filtered off. The cake is washed with water and dried. There is obtained 6.7 g (77%) of a white solid.

reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-dimethyl-4-hydroxy-nicotinic acid | 41.1 mmol, 6.9 g | CC1=C(C(=O)O)C(=CC(=N1)C)O | C8H9NO3
solvent | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dimethyl-5-nitro-4-hydroxy-nicotinic acid | 6.7 g, 77% | CC1=C(C(=O)O)C(=C(C(=N1)C)[N+](=O)[O-])O | C8H8N2O5
